US05482941
3-Carbamoyl-2-(2-ethoxybenzamido)benzamide
The title compound was prepared from 2-amino-3-carbamoylbenzamide and 2-ethoxybenzoyl chloride following the procedure of Preparation 5 and was obtained as colorless crystals (33%), m.p. 224°-225° C. Found: C,62.57; H,5.18; N,12.81. C17H17N3O4 requires C,62.37; H,5.24; N,12.84%.

reactant | 2-amino-3-carbamoylbenzamide | NC1=C(C(=O)N)C=CC=C1C(N)=O | C8H9N3O2
reactant | 2-ethoxybenzoyl chloride | C(C)OC1=C(C(=O)Cl)C=CC=C1 | C9H9ClO2
product | 3-Carbamoyl-2-(2-ethoxybenzamido)benzamide | C(N)(=O)C=1C(=C(C(=O)N)C=CC1)NC(C1=C(C=CC=C1)OCC)=O | C17H17N3O4
